US04066635
a. Benzyloxycarbonyl-β-alaninamide
111.7 g of benzyloxycarbonyl-β-alanine were dissolved in 1 liter of dimethylformamide, cooled to -20° C, treated with 70 ml of triethylamine and 67 ml of chloroformic acid isobutyl ester and stirred at -20° C for 3 minutes. Dry ammonia gas was led into this mixture until the pH rose to 11, care being taken that the temperature did not exceed -10° C. The mixture was stirred for a further 30 minutes at room temperature, filtered and the filtrate concentrated in vacuo. The residue was recrystallised from water. Yield: 91 g; melting point 162°-165° C.

reactant | benzyloxycarbonyl-β-alanine | 111.7 g | C(C1=CC=CC=C1)OC(=O)NCCC(=O)O | C11H13NO4
reactant | triethylamine | 70 ml | C(C)N(CC)CC | C6H15N
reactant | chloroformic acid isobutyl ester | 67 ml | C(C(C)C)OC(=O)Cl | C5H9ClO2
reactant | ammonia | N | H3N
solvent | dimethylformamide | 1 liter | CN(C=O)C | C3H7NO
product | Benzyloxycarbonyl-β-alaninamide | C(C1=CC=CC=C1)OC(=O)NCCC(=O)N | C11H14N2O3
